US04783495
Diphenyl-bis(3,5-di-tert-butyl-4-hydroxyphenyl)silane
To a solution of 5.0 g (7 mmol) of diphenylbis(3,5-di-tert-butyl-4-trimethylsilyloxyphenyl)silane in 30 ml of tetrahydrofuran at 0° C. is added dropwise a solution of 4.3 g (14 mmol) of tetrabutylammonium fluoride trihydrate in 35 ml of tetrahydrofuran. The reaction mixture is stirred for 5 minutes at 0° C. and to it is added dropwise a solution of 2.2 g (62 mmol) of concentrated hydrochloric acid in 10 ml of tetrahydrofuran. The solvent is removed in vacuo and to the residue is added 250 ml of diethylether. The solution is extracted (3×100 ml) with water. The organic phase is dried over anhydrous sodium sulfate and the solvent is removed in vacuo to give 4.0 grams of a white solid. The crude product is recrystallized from heptane to give 3.0 g (75%) of product as white crystals; mp. 193°-194.5° C.

reactant | diphenylbis(3,5-di-tert-butyl-4-trimethylsilyloxyphenyl)silane | 7 mmol, 5.0 g | C1(=CC=CC=C1)[Si](C1=CC(=C(C(=C1)C(C)(C)C)O[Si](C)(C)C)C(C)(C)C)(C1=CC(=C(C(=C1)C(C)(C)C)O[Si](C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C46H68O2Si3
reactant | tetrabutylammonium fluoride trihydrate | 14 mmol, 4.3 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 62 mmol, 2.2 g | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Diphenyl-bis(3,5-di-tert-butyl-4-hydroxyphenyl)silane | 4.0 grams | C1(=CC=CC=C1)[Si](C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C1=CC=CC=C1 | C40H52O2Si
